US04251521
Cyclopropyldiphenylsulfonium-2-naphthalene sulfonate
5.0 g. of cyclopropyl diphenyl sulfonium tetrafluoroborate is dissolved in 30 ml. water by heating the solution to 90°-95° C. To this is added 50 ml. of a hot solution of potassium naphthalene-2-sulfonate (obtained by heating 49.7 g. of naphthalene-2-sulfonic acid and 12 g. potassium hydroxide in 100 ml. water). The above reaction mixture is then mixed vigorously and maintained at 90° C. for a few minutes and then allowed to cool gradually to room temperature. The reaction mixture is then filtered free of any precipitate and the aqueous filtrate extracted several times with methylene chloride. The combined methylene chloride extracts, after drying over sodium sulphate, is filtered and evaporated i.v. to dryness. The residue is triturated with ether to obtain the title compound, m.p. 93°-95° C.

reactant | cyclopropyl diphenyl sulfonium tetrafluoroborate | F[B-](F)(F)F.C1(CC1)[S+](C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium naphthalene-2-sulfonate | 100 ml, 49.7 g | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)[O-].[K+]
solvent | water | O | H2O
product | Cyclopropyldiphenylsulfonium 2-naphthalene sulfonate | C1(CC1)[S+](C1=CC=CC=C1)C1=CC=CC=C1.C1=C(C=CC2=CC=CC=C12)S(=O)(=O)[O-] | InChI=1S/C15H15S.C10H8O3S/c1-3-7-13(8-4-1)16(15-11-12-15)14-9-5-2-6-10-14;11-14(12,13)10-6-5-8-3-1-2-4-9(8)7-10/h1-10,15H,11-12H2;1-7H,(H,11,12,13)/q+1;/p-1
